US06350762B1
1) Synthesis of 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(4-phenylpiperazine-1-carbonyl)-1,4-dihydropyridine-3-carboxylate
216 mg (0.60 mmol) of mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate, 147 mg (0.76 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 0.14 ml (0.92 mmol) of 1-phenylpiperazine and 25 mg (0.20 mmol) of 4-dimethylaminopyridine were stirred in 10 ml of dichloromethane at room temperature for 4 days. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture. After the extraction with dichloromethane, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (chloroform/methanol=100/1) to obtain the title compound

reactant | mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.60 mmol, 216 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)[O-])C)C)C(=O)OCCC#N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.76 mmol, 147 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-phenylpiperazine | 0.92 mmol, 0.14 ml | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.20 mmol, 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(4-phenylpiperazine-1-carbonyl)-1,4-dihydropyridine-3-carboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)N1CCN(CC1)C1=CC=CC=C1)C)C)C(=O)OCCC#N | C28H29ClN4O3
